US06172064B2
To a solution of (2R,3S)-2-(5-phenyl-1-pentyl)-3-(2-tetrahydropyranyloxyamino)butanoic acid (105 mg, 0.30 mmol) in pyridine (1.5 mL) at 0° C. is added formic acetic anhydride (0.3 mL). The resulting solution is allowed to warm to 25° C., stirred for 3 h, and then concentrated to dryness under reduced pressure. The resulting gum is dissolved in ethyl acetate (30 mL) and washed sequentially with 1 M hydrochloric acid (20 mL) and saturated aqueous sodium chloride solution. The organic layer is dried over anhydrous magnesium sulfate and concentrated under reduced pressure to provide (2R,3S)-2-(5-phenyl-1-pentyl)-1-propyl)-3-(formyl-2-tetrahydropyranyloxyamino)butanoic acid as an oil (105 mg, 92% yield).

reactant | (2R,3S)-2-(5-phenyl-1-pentyl)-3-(2-tetrahydropyranyloxyamino)butanoic acid | 0.30 mmol, 105 mg | C1(=CC=CC=C1)CCCCC[C@@H](C(=O)O)[C@H](C)NOC1OCCCC1 | C20H31NO4
reactant | formic acetic anhydride | 0.3 mL | C(C)(=O)OC=O | C3H4O3
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 3-(formyl-2-tetrahydropyranyloxyamino)butanoic acid | 105 mg, 92% yield | C(=O)N(C(CC(=O)O)C)OC1OCCCC1 | C10H17NO5
